US08980877B2
A suspension of (E)-3-[1′-methyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid (400 mg, 1.29 mmol) in DCM (16 ml) was treated with TEA (0.30 ml, 2.2 mmol) and then with EDC (420 mg, 2.20 mmol), HOBt (297 mg, 2.20 mmol) and NH2OTHP (204 mg, 1.75 mmol) following the procedure described in Example 30, Step B, giving (E)-3-[1′-methyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (340 mg) as a light yellow solid.

reactant | (E)-3-[1′-methyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid | 1.29 mmol, 400 mg | CN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C15H15NO4
reactant | EDC | 2.20 mmol, 420 mg
reactant | HOBt | 2.20 mmol, 297 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH2OTHP | 1.75 mmol, 204 mg | NOC1OCCCC1 | C5H11NO2
solvent | DCM | 16 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-[1′-methyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 340 mg | CN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C20H24N2O5
